US06506744B1
Catalytic hydrogenation of 3-[2-(1-methyl-7-nitro-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-acetylamino]-propionic acid ethyl ester in EtOH in the presence of 10% Pd/C at RT and atmospheric pressure followed by acylation with benzylisocyanate as described in Example 1d) gave 3-[2-[7-(3-benzyl-ureido)-1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino]-propionic acid ethyl ester: mp. 100-102° C.; MS (ISP): 496 (M+1)+.

reactant | 3-[2-(1-methyl-7-nitro-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl)-acetylamino]-propionic acid ethyl ester | C(C)OC(CCNC(CN1CC(N(C2=C(C1=O)C=C(C=C2)[N+](=O)[O-])C)=O)=O)=O | C17H20N4O7
reactant | benzylisocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-[2-[7-(3-benzyl-ureido)-1-methyl-2,5-dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-yl]-acetylamino]-propionic acid ethyl ester | C(C)OC(CCNC(CN1CC(N(C2=C(C1=O)C=C(C=C2)NC(=O)NCC2=CC=CC=C2)C)=O)=O)=O | C25H29N5O6
